US08633173B2
195 c) To a cooled, stirred suspension of 2.0 M of lithium tetrahydroborate in tetrahydrofuran (0.630 mL, 1.26 mmol) at 5° C. was added dropwise a solution of 2-(methanesulfonyl-methyl-amino)-benzoic acid ethyl ester (1.08 g, 4.20 mmol) in tetrahydrofuran (10 mL). Gas evolution was noted. The mixture was stirred for 10 minutes at 5° C. then at room temperature for 3 hours. The mixture was cooled to 5° C. and saturated aqueous ammonium chloride (5 mL) was added dropwise. Vigorous gas evolution was noted. The mixture was stirred for 15 minutes then warmed to room temperature for 30 minutes. Sodium sulfate was added to granulate aluminium salts. The mixture was diluted with dichloromethane (50 mL), filtered through a plug of diatomaceous earth and evaporated. N-(2-Hydroxymethyl-phenyl)-N-methyl-methanesulfonamide was isolated as a yellow oil (0.931 g, 100%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.61 (d, J=7.3 Hz, 1H), 7.44-7.35 (m, 2H), 7.28-7.24 (m, 1H), 4.74 (br s, 2H), 3.29 (s, 3H), 2.98 (s, 3H), 2.90-2.81 (m, 1H). MS=238 (M+Na)+.

reactant | lithium tetrahydroborate | 2.0 M | [BH4-].[Li+]
reactant | 2-(methanesulfonyl-methyl-amino)-benzoic acid ethyl ester | 4.20 mmol, 1.08 g | C(C)OC(C1=C(C=CC=C1)N(C)S(=O)(=O)C)=O | C11H15NO4S
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
reactant | Sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 1.26 mmol, 0.630 mL | O1CCCC1 | C4H8O
product | N-(2-Hydroxymethyl-phenyl)-N-methyl-methanesulfonamide | OCC1=C(C=CC=C1)N(S(=O)(=O)C)C | C9H13NO3S
